US08080654B2
Step 3: methyl (1aR,5S,8S,10R,18E,22aR)-5-tert-butyl-14-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,20,21,22,22a-dodecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoxaline-8-carboxylate
A solution (0.02 M) of methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(7-methoxy-3-vinylquinoxalin-2-yl)oxy]-L-prolinate in DCE was heated to 80° C. then treated with Zhan 1 catalyst (0.15 eq). The resulting mixture was stirred at 80° C. for 1 h, then cooled to room temperature and concentrated under reduced pressure. The residue was purified by flash chromatography (20-50% EtOAc/petroleum ether) to give the title compound (25% for 2 steps) as a foam. MS (ES+) m/z 567 (M+H)+

reactant | methyl 3-methyl-N-({[(1R,2R)-2-pent-4-en-1-ylcyclopropyl]oxy}carbonyl)-L-valyl-(4R)-4-[(7-methoxy-3-vinylquinoxalin-2-yl)oxy]-L-prolinate | 0.02 M | CC([C@H](NC(=O)O[C@H]1[C@@H](C1)CCCC=C)C(=O)N1[C@H](C(=O)OC)C[C@H](C1)OC1=NC2=CC(=CC=C2N=C1C=C)OC)(C)C | C32H42N4O7
solvent | DCE | ClCCCl | C2H4Cl2
product | methyl (1aR,5S,8S,10R,18E,22aR)-5-tert-butyl-14-methoxy-3,6-dioxo-1,1a,3,4,5,6,9,10,20,21,22,22a-dodecahydro-8H-7,10-methanocyclopropa[18,19][1,10,3,6]dioxadiazacyclononadecino[11,12-b]quinoxaline-8-carboxylate | 25% | C(C)(C)(C)[C@@H]1NC(O[C@H]2[C@H](CCC/C=C/C=3C(=NC=4C=C(C=CC4N3)OC)O[C@@H]3C[C@H](N(C1=O)C3)C(=O)OC)C2)=O | C30H38N4O7
